* C:\Users\pkubo\OneDrive\Dokumenty\LTspiceXVII\lab8\EwA - schemat wzmacniacza.asc
V1 N002 0 PULSE(0 5 0 1n 1n 10m 20m) AC 5
V2 wy 0 12
R_g we N002 1k
R_E N003 0 1
Q1 N001 we N003 0 BC547C
R_C wy N001 1000
.model NPN NPN
.model PNP PNP
.lib C:\Users\pkubo\OneDrive\Dokumenty\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 100m 0 1m
.backanno
.end
